US07964724B2
To a degassed solution of 4-tert-butyl-5-chloro-2-ethoxy-1-iodobenzene (2.2 g, 6.4 mmol), sodium methoxide (0.52 g, 9.6 mmol) and dichlorobistriphenylphosphinepalladium (0.25 g, 0.4 mmol) in dioxane (20 mL) was added methylformate (1.2 mL, 19.4 mmol). The resulting mixture was heated in an oil bath (60° C.) for 18 h and then allowed to cool. The solution was diluted with dioxane and filtered through a plug of Celite and concentrated. Purification of the crude residue by flash chromatography over silica gel using 5-20% ethyl acetate in hexanes gave ethyl 4-tert-butyl-5-chloro-2-ethoxybenzoate (1.39 g, 80%) as a clear oil.

reactant | 4-tert-butyl-5-chloro-2-ethoxy-1-iodobenzene | 6.4 mmol, 2.2 g | C(C)(C)(C)C1=CC(=C(C=C1Cl)I)OCC | C12H16ClIO
reactant | sodium methoxide | 9.6 mmol, 0.52 g | C[O-].[Na+]
reactant | methylformate | 19.4 mmol, 1.2 mL | COC=O | C2H4O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | ethyl 4-tert-butyl-5-chloro-2-ethoxybenzoate | 1.39 g, 80% | C(C)(C)(C)C1=CC(=C(C(=O)OCC)C=C1Cl)OCC | C15H21ClO3
